US09108936B2
A solution of trifluoro-methanesulfonic acid (3-methoxy-5-morpholin-4-yl-2-nitro-phenyl)ester (15.0 g, 38.7 mmol), potassium phosphate (24.6 g, 116 mmol) and 2-isopropenyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (8.4 g, 50.3 mmol) in dimethylformamide (80 ml) is degassed and flushed with argon for 20 min. To the reaction mixture is added 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride (2.9 g, 3.9 mmol) and the resulting mixture is stirred at 120° C. for 16 h. After completion of the reaction (monitored by TLC), the mixture is diluted with water (50 ml) and extracted with ethyl acetate (3×70 ml). The combined organic layers are washed water (50 ml), brine (50 ml), dried over anhydrous sodium sulfate and evaporated in vacuo to get the crude product, which is purified by flash column chromatography (silica gel, 5% acetone/hexane) to yield 4-(3-isopropenyl-5-methoxy-4-nitro-phenyl)-morpholine (5.6 g, 20.0 mmol, 52%).

reactant | trifluoro-methanesulfonic acid (3-methoxy-5-morpholin-4-yl-2-nitro-phenyl)ester | 38.7 mmol, 15.0 g | COC=1C(=C(C=C(C1)N1CCOCC1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C12H13F3N2O7S
reactant | potassium phosphate | 116 mmol, 24.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-isopropenyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 50.3 mmol, 8.4 g | C(=C)(C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride | 3.9 mmol, 2.9 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(3-isopropenyl-5-methoxy-4-nitro-phenyl)-morpholine | 20.0 mmol, 5.6 g, 52% | C(=C)(C)C=1C=C(C=C(C1[N+](=O)[O-])OC)N1CCOCC1 | C14H18N2O4
